US09079888B2
Step (i): Preparation of tert-Butyl 4-(3-fluoro-4-nitro phenoxy)piperidine-1-carboxylate
3-Fluoro-4-nitro phenol (5 g, 0.032 moles), potassium carbonate (6.34 g, 0.047 moles) and tert-Butyl 4-(toluene-4-sulfonyloxy)piperidine-1-carboxylate (14 g, 0.04 moles) in dimethylformamide (50 mL) were stirred at 100° C. After completion of reaction, the mass was quenched on to water (100 mL) and extracted with ethyl acetate (2×100 mL). The resulting organic layer was washed with brine solution, dried over sodium sulfate and concentrated under reduced pressure to obtain the crude residue, which was further purified by flash chromatography using (ethyl acetate:hexane, 0.5:9.5) to afford the title compound 9.23 g (Yield: 85%).

reactant | 3-Fluoro-4-nitro phenol | 0.032 moles, 5 g | FC=1C=C(C=CC1[N+](=O)[O-])O | C6H4FNO3
reactant | potassium carbonate | 0.047 moles, 6.34 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-Butyl 4-(toluene-4-sulfonyloxy)piperidine-1-carboxylate | 0.04 moles, 14 g | C1(=CC=C(C=C1)S(=O)(=O)OC1CCN(CC1)C(=O)OC(C)(C)C)C | C17H25NO5S
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | tert-Butyl 4-(3-fluoro-4-nitro phenoxy)piperidine-1-carboxylate | 9.23 g, Yield: 85% | FC=1C=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=CC1[N+](=O)[O-] | C16H21FN2O5
